Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Dilantin Kapseal / Phenobarbital / Penicillins / Mevacor / 
Lipitor / Iodine-Iodine Containing / Tegretol / Klonopin / 
Valium / Diamox Sequels / Paraldehyde / Zarontin / Valproic Acid 
And Derivatives / Fiorinal / Cyproheptadine / Tranxene-SD / 
Robaxin / Mebaral / Sudafed / Epinephrine / Ativan / Questran 
Light / Lopid / Multivitamin / Iron / Depakote / Neurontin / 
Primidone / Iodine / Barium Iodide / Zetia / Zyban / Depakene / 
Lyrica
 
Attending: ___
 
Chief Complaint:
Chest pain

 
Major Surgical or Invasive Procedure:
Coronary Artery Bypass x 4 (LIMA-LAD, SVG-RI, SVG-OM, SVG-PDA) 
___

 
History of Present Illness:
___ year old female with a history of
hypertension, Dyslipidemia, atypical chest pain, seizure
disorder, s/p right temporal lobectomy, fibromyalgia, with one
month of intermittent chest pain, who presents with an abnormal
stress test, and is now referred for cardiac catheterization. 
She
has a one month history of sharp, stabbing, substernal chest
pain with radiation to the ride side of her chest. She also
report some mild numbness down her left arm and up to the left
side of her face which would happen on occasion but not with 
each
episode of chest pain. The pain occurs at random, with no set
pattern, and no precipitating factors. The pain lasts only
minutes and resolves on its own. She also reports some mild
wheezing which is not in relation to activity and is
intermittent. She also reports some dizziness and 
lightheadedness
which she believes is related to migraine headaches. On cardiac
catheterization today she was found to have 3 vessel disease
including left main. She is now being referred to cardiac 
surgery
for revascularization.

 
Past Medical History:
coronary artery disease
PMH:
? TIA ___
Seizures ___ and ___
Encephalitis
Bronchitis
Seasonal allergies 
Anemia (prior transfusions)
GERD
Precancerous skin lesions 
Chronic pain/fibromyalgia 
Hiatal Hernia

Past Surgical History:
S/P right temporal lobectomy ___ (no further seizure since)
S/p Breast reduction 
s/p Rhinoplasty

 
Social History:
___
Family History:
No other family members with epilepsy.  Multiple family members 
have suffered intracranial hemorrhages and myocardial 
infarctions.

 
Physical Exam:
Pulse:72 Resp:16  O2 sat:98/RA 
B/P  Right:144/75    Left:142/74 
Height:5'2"     Weight:140 lbs

General: NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None [x]
Neuro: Grossly intact x
Pulses:
Femoral      Right: cath site  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit        Right:    Left:
no bruits

 
Pertinent Results:
Intraop TEE ___
PRE-CPB:1. The left atrium is normal in size. The left atrial 
appendage emptying velocity is depressed (<0.2m/s). No thrombus 
is seen in the left atrial appendage.
2. No atrial septal defect is seen by 2D or color Doppler.
3. Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is low normal (LVEF 50-55%).
4. Right ventricular chamber size and free wall motion are 
normal.
5. There are simple atheroma in the aortic arch. There are 
complex (>4mm) atheroma in the descending thoracic aorta. 
6. There are three aortic valve leaflets. The aortic valve 
leaflets are mildly thickened. There is no aortic valve 
stenosis. No aortic regurgitation is seen. Mild (1+) mitral 
regurgitation is seen. 
7. There is no pericardial effusion.
Dr. ___ was notified in person of the results. 

POST-CPB: On infusion of phenylephrine. Preserved biventricular 
systolic function. Aortic contour is normal post decannulation.  

___ 04:35AM BLOOD WBC-6.0 RBC-2.92* Hgb-8.8* Hct-25.0* 
MCV-86 MCH-30.2 MCHC-35.3* RDW-14.9 Plt ___
___ 06:00AM BLOOD WBC-7.1 RBC-2.94* Hgb-9.1* Hct-25.0* 
MCV-85 MCH-30.9 MCHC-36.4* RDW-14.5 Plt ___
___ 04:35AM BLOOD Glucose-110* UreaN-18 Creat-0.9 Na-136 
K-3.9 Cl-95* HCO3-33* AnGap-12
___ 06:00AM BLOOD UreaN-17 Creat-0.8 Na-134 K-3.2* Cl-91*
___ 04:35AM BLOOD Mg-2.0
___ 06:00AM BLOOD Mg-1.7
 
Brief Hospital Course:
The patient was brought to the operating room on ___ where 
the patient underwent CABG x 4 with Dr. ___.  Overall the 
patient tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically at 
baseline and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  
Chest tubes and pacing wires were discontinued without 
complication.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  
By the time of discharge on POD 4 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged to ___ in 
good condition with appropriate follow up instructions.
 
Medications on Admission:
BACLOFEN - 10 mg Tablet - Take 7 - 8 Tablet(s) by mouth daily as
directed Must be IVAX/ZENITH brand - No Substitution
CALAN SR - 240MG Tablet Extended Release - ONE BY MOUTH EVERY 
DAY
- No Substitution
DARVOCET-N 100 -  (Prescribed by Other Provider: Dr. ___ - 100 mg-650 mg Tablet - 1 Tablet(s) by mouth  as needed
for migraines Brand name only
FLUVASTATIN [LESCOL XL] -  (Prescribed by Other Provider) - 80 
mg
Tablet Extended Release 24 hr - 1 (One) Tablet(s) by mouth once 
a
day
MOMETASONE [NASONEX] - 50 mcg Spray, Non-Aerosol - 2 sprays each
nostril once a day
OMEPRAZOLE [PRILOSEC] -  (Prescribed by Other Provider) - 20 mg
Capsule, Delayed Release(E.C.) - 1 Capsule(s) by mouth three
times a day
PREDNISONE - 20 mg Tablet - 2 Tablet(s) by mouth twice a day 
take
pm on ___ and am on ___ for dye allergy
PRIMIDONE [MYSOLINE] - 50 mg Tablet - Take 4 Tablet(s) by mouth
daily Manufacturer must be: Valeant.  NO SUBSTITUTION. - No
Substitution
PROPRANOLOL [INDERAL LA] - 60 mg Capsule,Extended Release 24 hr
-Take one Capsule(s) by mouth daily - No Substitution
RANITIDINE HCL -  (Prescribed by Other Provider) - 300 mg Tablet
- 1 Tablet(s) by mouth at bedtime will take ___ tablet on 
morning
of cath for dye allergy
TRIAMTERENE-HYDROCHLOROTHIAZID [DYAZIDE] - 37.5 mg-25 mg Capsule
- Take 2 Capsule(s) by mouth daily - No Substitution
 
Medications - OTC
ASPIRIN -  (Prescribed by Other Provider) - 325 mg Tablet - 1
Tablet(s) by mouth once a day will start ___ am pre cath
DIPHENHYDRAMINE HCL [CHILDREN'S ALLERGY] -  (Prescribed by Other
Provider; OTC) - 12.5 mg/5 mL Liquid - 10 ml by mouth once pm 
___
for dye allergy pre cardiac cath/pt states can not take 50mg to
strong for her
DOCUSATE SODIUM [COLACE] -  (OTC) - 50 mg Capsule - 1 Capsule(s)
by mouth  as needed for constipation
IBUPROFEN -  (OTC) - 200 mg Capsule - 1 Capsule(s) by mouth two
times a day
NAPROXEN SODIUM [ALEVE] -  (OTC) - 220 mg Tablet - 1 Tablet(s) 
by
mouth  as needed for headache and severe muscle aches
SIMETHICONE [PHAZYME] -  (OTC) - 180 mg Capsule - 1 Capsule(s) 
by
mouth  as needed for gas

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain/HA/fever.  
4. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation.  
5. morphine 15 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
6. fluvastatin 20 mg Capsule Sig: Four (4) Capsule PO Daily ().  

7. mometasone 50 mcg/Actuation Spray, Non-Aerosol Sig: One (1)  
Nasal daily ().  
8. primidone 50 mg Tablet Sig: Four (4) Tablet PO HS (at 
bedtime).  
9. baclofen 10 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for spasms .  
10. baclofen 10 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)).  
11. baclofen 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
12. ipratropium bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for wheezing.  
13. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for wheezing.  
14. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO TID (3 times a day).  
15. ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
16. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO TID (3 
times a day).  
17. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 1 weeks.  
18. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO DAILY (Daily) for 1 weeks.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
coronary artery disease
PMH:
? TIA ___
Seizures ___ and ___
Encephalitis
Bronchitis
Seasonal allergies 
Anemia (prior transfusions)
GERD
Precancerous skin lesions 
Chronic pain/fibromyalgia 
Hiatal Hernia

Past Surgical History:
S/P right temporal lobectomy ___ (no further seizure since)
S/p Breast reduction 
s/p Rhinoplasty

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, deconditioned
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Trace ___ edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___